US06673797B1
(1) Preparation of 2-Cyano-1-(4-fluorobenzyl)-5-methanesulfonylindole
To a mixture of 1-(4-fluorobenzyl)-5-methanesulfonylindole-2-carboxamide (100 mg) and dichloromethane (2 ml), triethylamine (0.09 ml) and anhydrous trifluoroacetic acid (0.09 ml) were added at 15 to 30° C. and the mixture was stirred at the same temperature for 2 hours. Water was added therto, and the mixture was extracted with dichloromethane. The organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 68 mg of the desired product as a white crystal.

reactant | 1-(4-fluorobenzyl)-5-methanesulfonylindole-2-carboxamide | 100 mg | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C(=O)N)C=C1 | C17H15FN2O3S
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 0.09 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | Water | O | H2O
product | 2-Cyano-1-(4-fluorobenzyl)-5-methanesulfonylindole | 68 mg | C(#N)C=1N(C2=CC=C(C=C2C1)S(=O)(=O)C)CC1=CC=C(C=C1)F | C17H13FN2O2S
